US04204071
To sodium hydride (2.84 g, 57% in oil, washed with pentane), 110 ml dry THF and 20 ml HMPT, cooled to 0° and under nitrogen, is added 12.7 g ethyl 4-phenyl-3-butenoate slowly with stirring. Then 6.5 ml of isopropyliodide is added and the reaction mixture is stirred for about 60 hrs. The reaction is worked up by extracting into water/ether mixture. The aqueous phase is extracted with ether. The organic phases are combined, washed with brine, dried over calcium sulfate and rotoevaporated to give ethyl 2-isopropyl-4-phenyl-3-butenoate, which is hydrolyzed (potassium hydroxide, water-methanol) to the acid, 2-isopropyl-4-phenyl-3-butenoic acid. The acid is reacted with m-phenoxybenzyl alcohol following the procedure of Example 4 to yield m-phenoxybenzyl ester of 2-isopropyl-4-phenyl-3-butenoic acid. NMR (CDCl3) δ0.91 [d, 3, J=Hz, --CH(CH3)2 ], 0.94 [d, 3, J=Hz, --CH(CH3)2 ], 5.13 (s, 2, benzyl), and 6.0-6.5 ppm (complex, 2, vinyl). IR (CCl4) 1745 cm-1 (C=O).

reactant | sodium hydride | 2.84 g | [H-].[Na+]
reactant | THF | 110 ml | C1CCOC1 | C4H8O
reactant | ethyl 4-phenyl-3-butenoate | 12.7 g | C1(=CC=CC=C1)C=CCC(=O)OCC | C12H14O2
reactant | isopropyliodide | 6.5 ml | C(C)(C)I | C3H7I
solvent | HMPT | 20 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | ethyl 2-isopropyl-4-phenyl-3-butenoate | C(C)(C)C(C(=O)OCC)C=CC1=CC=CC=C1 | C15H20O2
